US06107291
trans-3-Phenyl-1-(4-methoxybenzenesulfonyl)-azepane-2-hydroxamic acid was synthesized from 2-Phenyl-6-oxo-azepane 2-carboxylic acid ethyl ester in the same manner as the procedures used for the preparation of cis-3-Benzyl-1-(4-methoxybenzenesulfonyl)-azepane-2-carboxylic acid-hydroxyamide.

reactant | 2-Phenyl-6-oxo-azepane 2-carboxylic acid ethyl ester | C(C)OC(=O)C1(NCC(CCC1)=O)C1=CC=CC=C1 | C15H19NO3
reactant | cis-3-Benzyl-1-(4-methoxybenzenesulfonyl)-azepane-2-carboxylic acid-hydroxyamide | ONC(=O)[C@@H]1N(CCCC[C@@H]1CC1=CC=CC=C1)S(=O)(=O)C1=CC=C(C=C1)OC | C21H26N2O5S
product | trans-3-Phenyl-1-(4-methoxybenzenesulfonyl)-azepane-2-hydroxamic acid | C1(=CC=CC=C1)[C@H]1[C@@H](N(CCCC1)S(=O)(=O)C1=CC=C(C=C1)OC)C(=O)NO | C20H24N2O5S
